US09212147B2
Under ice-cooling, to a solution (5 mL) of benzyl alcohol (350 μL) in toluene was added t-butoxy potassium (375 mg), and the mixture was stirred for 20 min. To the mixture was added a toluene-dimethylformamide (1:1) suspension (10 ml) of 3-[(E)-2-phenylvinyl][1,4]benzodioxino[2,3-c]pyridazine (386 mg) at 0° C., and the mixture was stirred at 120° C. for 19 hr. Water was added, and the mixture was extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 3,4-bis(benzyloxy)-6-[(E)-2-phenylvinyl]pyridazine (473 mg).

reactant | benzyl alcohol | 5 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | t-butoxy potassium | 375 mg | C(C)(C)(C)O[K]
reactant | toluene dimethylformamide | C1(=CC=CC=C1)C.CN(C=O)C
reactant | 3-[(E)-2-phenylvinyl][1,4]benzodioxino[2,3-c]pyridazine | 10 ml, 386 mg | C1(=CC=CC=C1)/C=C/C1=CC2=C(N=N1)OC1=C(O2)C=CC=C1 | C18H12N2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | 3,4-bis(benzyloxy)-6-[(E)-2-phenylvinyl]pyridazine | 473 mg | C(C1=CC=CC=C1)OC=1N=NC(=CC1OCC1=CC=CC=C1)\C=C\C1=CC=CC=C1 | C26H22N2O2
